US05475132
Ethyl 2-bromo-4-nitrobenzoate (46 g; 0.17 mole), ethanol (250 ml), iron powder (28 g; 0.5 mole) and concentrated hydrochloric acid (20 ml) are successively introduced into a 1 liter flask. The mixture is taken to reflux temperature for four hours. After cooling, the reaction mixture is treated with a saturated solution of sodium bicarbonate (500 ml) and extracted with ethyl acetate (5×300 ml). After drying over magnesium sulphate, filtration and evaporation, ethyl 4-amino-2-bromobenzoate (35.2 g; yield: 86%) is isolated, m.p. 93° C. (compound no. 254).

reactant | Ethyl 2-bromo-4-nitrobenzoate | 0.17 mole, 46 g | BrC1=C(C(=O)OCC)C=CC(=C1)[N+](=O)[O-] | C9H8BrNO4
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
catalyst | iron | 0.5 mole, 28 g | [Fe] | Fe
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl 4-amino-2-bromobenzoate | 35.2 g, yield: 86% | NC1=CC(=C(C(=O)OCC)C=C1)Br | C9H10BrNO2
